US07618978B2
2-(R)-(2-(R)-Amino-1-(S)-hydroxy-3-phenyl-propyl)-4-(3-methylbutyl)-piperazine-1-carboxylic acid tert-butyl ester
Dissolve 2-(R)-[2-(R)-(benzhydrylidene-amino)-1-(S)-hydroxy-3-phenylpropyl]-4-(3-methyl-butyl)-piperazine-1-carboxylic acid tert-butyl ester in methanol (3 mL) and add 10% palladium on carbon (29 mg). Stir under 1 atmosphere of hydrogen gas for 24 h and filter through a filtering agent, wash with methanol and concentrate to give the title compound which is used without further purification.

reactant | 2-(R)-[2-(R)-(benzhydrylidene-amino)-1-(S)-hydroxy-3-phenylpropyl]-4-(3-methyl-butyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)CCC(C)C)[C@H]([C@@H](CC1=CC=CC=C1)N=C(C1=CC=CC=C1)C1=CC=CC=C1)O | C36H47N3O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 3 mL | CO | CH4O
catalyst | palladium on carbon | 29 mg | [Pd] | Pd
product | 2-(R)-(2-(R)-Amino-1-(S)-hydroxy-3-phenyl-propyl)-4-(3-methylbutyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)CCC(C)C)[C@H]([C@@H](CC1=CC=CC=C1)N)O | C23H39N3O3
